US03989724
A solution of 5.22 grams of the diol in 1,2-dichloroethane was stirred with 63 grams of manganese dioxide in the presence of 50 milligrams of hydroquinone for one hour. After filtration to remove the manganese dioxide, washing with additional dichloroethane and ether, and evaporation of the filtrate at 30°C., there was obtained 3.98 grams of optically active 7(S)-hydroxy-1-dodecen-3-one.

reactant | hydroquinone | 50 milligrams | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | manganese dioxide | 63 grams | [O-2].[O-2].[Mn+4]
product | 7(S)-hydroxy-1-dodecen-3-one | O[C@H](CCCC(C=C)=O)CCCCC | C12H22O2
